US05756504
1-(2-Methoxy-4-(1-(3-hydroxy-3-cyclobutene-1,2-dion-4-y)-4-piperidyloxy)phenylacetyl)-4-(2-methylphenyl)piperazine-2-carboxamide
1-(2-Methoxy-4-(1-(3-ethoxy-3-cyclobutene-1,2-dion-4-yl)-4-piperidyloxy)phenylacetyl)-4-(2-methylphenyl)piperazine-2-carboxamide (87 mg, 0.147 mmole) was dissolved in 3 ml of ethanol, treated with one equivalent of 1N sodium hydroxide solution, and stirred at ambient temperature overnight. All volatiles were removed under reduced pressure and the residual material was applied directly to precoated silica gel plates (0.5 mm thickness). Multiple elutions with a chloroform-methanol-acetic acid solvent mixture (80:20:2) afforded the title compound as a white solid: m.p. 144°-148° C.

reactant | 1-(2-Methoxy-4-(1-(3-ethoxy-3-cyclobutene-1,2-dion-4-yl)-4-piperidyloxy)phenylacetyl)-4-(2-methylphenyl)piperazine-2-carboxamide | 0.147 mmole, 87 mg | COC1=C(C=CC(=C1)OC1CCN(CC1)C1=C(C(C1=O)=O)OCC)CC(=O)N1C(CN(CC1)C1=C(C=CC=C1)C)C(=O)N | C32H38N4O7
reactant | sodium hydroxide | 1N, one equivalent | [OH-].[Na+]
solvent | ethanol | 3 ml | C(C)O | C2H6O
product | 1-(2-Methoxy-4-(1-(3-hydroxy-3-cyclobutene-1,2-dion-4-y)-4-piperidyloxy)phenylacetyl)-4-(2-methylphenyl)piperazine-2-carboxamide | COC1=C(C=CC(=C1)OC1CCN(CC1)C1=C(C(C1=O)=O)O)CC(=O)N1C(CN(CC1)C1=C(C=CC=C1)C)C(=O)N | C30H34N4O7
